US05880147
N-[2-t-Butyl-5-(2-carboxyethyl)phenyl]-3-(2,3-dimethoxyphenyl)octanamide
5 ml of an aqueous solution containing 490 mg (12.2 mmol) of sodium hydroxide were added to a solution of 1.56 g (3.05 mmol) of N-[2-t-butyl-5-(2-ethoxycarbonylethyl)phenyl]-3-(2,3-dimethoxyphenyl)octanamide (prepared as described in Preparation 76) in 15 ml of ethanol, and the resulting mixture was stirred at room temperature for 13 hours. At the end of this time, the solvent was removed by distillation under reduced pressure, and the resulting residue was dissolved in water. The aqueous mixture was then washed with diethyl ether. The aqueous phase was acidified with hydrochloric acid and then extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, after which the solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography through silica gel, using a 10:1 by volume mixture of methylene chloride and methanol as the eluent, to give 1.45 g (yield 98%) of the title compound as a foam-like substance.

reactant | sodium hydroxide | 12.2 mmol, 490 mg | [OH-].[Na+]
reactant | N-[2-t-butyl-5-(2-ethoxycarbonylethyl)phenyl]-3-(2,3-dimethoxyphenyl)octanamide | 3.05 mmol, 1.56 g | C(C)(C)(C)C1=C(C=C(C=C1)CCC(=O)OCC)NC(CC(CCCCC)C1=C(C(=CC=C1)OC)OC)=O | C31H45NO5
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N-[2-t-Butyl-5-(2-carboxyethyl)phenyl]-3-(2,3-dimethoxyphenyl)octanamide | 1.45 g, yield 98% | C(C)(C)(C)C1=C(C=C(C=C1)CCC(=O)O)NC(CC(CCCCC)C1=C(C(=CC=C1)OC)OC)=O | C29H41NO5
